US07279481B2
Methyl 2-(3-nitrophenyl)propanoate
A solution of lithium hexamethyldisilazide (1M, hexane, 1.0 eq., 21.5 ml) was added dropwise to a stirred solution of methyl (3-nitrophenyl)acetate (4.2 g) in THF (30 ml) at −30 □C. The mixture was warmed to 0 □C and re-cooled to −30 □C then iodomethane (1.0 equiv., 3.0 g.) was added. The solution was warmed to room temperature and poured into aqueous ammonium chloride solution and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated. The crude was purified using chromatography (SiO2, SPE) using cyclohexane/ethyl acetate (80/20) as eluent to afford the title compound as yellow liquid (1.50 g, 30% yield).

reactant | lithium hexamethyldisilazide | 1M, 21.5 ml, 1.0 eq. | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl (3-nitrophenyl)acetate | 4.2 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)OC | C9H9NO4
reactant | iodomethane | 3.0 g, 1.0 equiv. | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl 2-(3-nitrophenyl)propanoate | 1.50 g, 30% yield | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)OC)C | C10H11NO4
